US06579879B2
A mixture of 3-methoxy-6-(pyrrole-1-sulfonyl)-pyridazine (0.46 mmol, 11 2mg), conc. HCl (1 mL) and dioxane (3 mL) was heated at 100° C. for 2 hours. The reaction mixture was cooled and evaporated to dryness. Water (10 mL) was added to the residue and the resulting solid was collected to obtain 6-(pyrrole-1-sulfonyl)-2H-pyridazin-3-one (69%, 73 mg); mp 140° C.-145° C.

reactant | 3-methoxy-6-(pyrrole-1-sulfonyl)-pyridazine | 0.46 mmol, 2mg | COC=1N=NC(=CC1)S(=O)(=O)N1C=CC=C1 | C9H9N3O3S
reactant | HCl | 1 mL | Cl | ClH
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 6-(pyrrole-1-sulfonyl)-2H-pyridazin-3-one | 73 mg, 69% | N1(C=CC=C1)S(=O)(=O)C=1C=CC(NN1)=O | C8H7N3O3S
